US04634704
To a stirred mixture of 0.8 parts of lithium aluminum hydride and 135 parts of tetrahydrofuran were added slowly 4 parts of N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-1H-indol-3-acetamide. The whole was stirred and refluxed overnight. The reaction mixture was cooled in an ice bath and decomposed by the successive additions of 1 part of water, 4.5 parts of a sodium hydroxide solution 15% and 3 parts of water. The whole was filtered over Hyflo and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (96:4 by volume) saturated with ammonia, as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 1 part (25.5%) of 1-[(4-fluorophenyl)methyl]-N-[1-[2-[[2-(1H-indol-3-yl)ethyl]amino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine; mp. 169.7° C. (compound 107).

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-1H-indol-3-acetamide | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC(CC2=CNC1=CC=CC=C21)=O | C31H33FN6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-[(4-fluorophenyl)methyl]-N-[1-[2-[[2-(1H-indol-3-yl)ethyl]amino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine | 25.5% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNCCC2=CNC1=CC=CC=C21 | C31H35FN6
